Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: 

Mr. ___ is a ___ male with unknown past history
presenting with altered mental status.  Patient was 
participating
in the ___, subsequently found to be unresponsive at
the mild 25 mark.  Per EMS, patient found with glucose of 60. 
Received half amp of dextrose containing solution and brought
into the ED.  On arrival to the ED, history was unable to be
taken due to mental status.  

Initial vitals were notable for temperature of 103 Fahrenheit,
heart rate of 129, blood pressure 125/62, respiratory rate 22
satting at 92% on room air.  Exam notable for an unresponsive
gentleman noted to be diaphoretic and warm.  Had 2+ pulses. 
Initial labs notable for white blood cell count of 19.5,
potassium 6.9, bicarb 18, serum creatinine 2.5 with unknown
baseline, serum glucose 376, CK 2674, magnesium 2.7, phos 0.3. 
Liver function tests notable for AST of 84.  In the setting,
patient was actively cooled and received IV fluid hydration with
both normal saline and LR.  Patient additionally received 2 Amps
of D50.  Noncontrast head CT obtained for altered status was
unremarkable.  Repeat labs notable for potassium 4.8 with
gallbladder 4.2, serum bicarb 22, serum creatinine 2.6, serum
glucose 101, CK ___, magnesium 3.8, phosphorus 4.4, AST 388,
ALT 98.

By this point, patient's mental status was significantly 
improved
with wife at bedside noting that he was "90% "

Right upper quadrant ultrasound was additionally ordered due to
transaminitis, demonstrating "1.  Starry sky appearance of the
hepatic parenchyma, which could represent hepatitis."

On transfer vitals stable. On arrival to the floor, patient
endorsing some soreness in legs. Wife at bedside stating patient
appearing minimally lethargic but otherwise appropriate, not
confused with no changes in speech pattern, thought process. He
endorses urinating in the ED which was not dark/bloody. No flank
pain. 

 
Past Medical History:
None
 
Social History:
___
Family History:
No history of renal problems.
 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM
=========================
VS: ___ 2158 Temp: 98.1 PO BP: 102/61 R Lying HR: 72 RR: 22
O2 sat: 99% O2 delivery: Ra 
GEN: NAD, laying in bed comfortably, appears younger than stated
age
HEENT: NC/AT EOMI MMM sclera nonicteric 
NECK: No JVD, no cLAD 
CV: RRR, S1/S2 normal 
PULSES: 2+ radial, ___, DP pulses bilateral
RESP: CTAB, nonlabored, appropriate respiratory rate 
ABD: Soft NTND
BACK: No CVA tenderness 
EXT: No lower extremity tenderness 
SKIN: No rashes appreciated on cursory exam 
NEURO: CN2-12 grossly intact. Appropriate mood and affect.
Sensation in all extremities grossly intact. motor strength in
all extremities grossly intact. 

=========================
DISCHARGE PHYSICAL EXAM:
=========================
GENERAL: Alert and interactive. In no acute distress.
Eyes: PERRL, EOMI. 
HENT: MMM. Oropharynx clear. 
NECK: No cervical lymphadenopathy. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
GU: Urinating frequently
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. No rash, no skin discoloration.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. CN2-6 
intact.
Strength and sensation intact in both lower extremities. No pain
with passive flexion.

 
Pertinent Results:
======================
ADMISSION LAB RESULTS
======================
___ 04:19PM BLOOD WBC-19.5* RBC-5.66 Hgb-17.2 Hct-48.3 
MCV-85 MCH-30.4 MCHC-35.6 RDW-11.8 RDWSD-36.1 Plt ___
___ 04:19PM BLOOD Neuts-79.3* Lymphs-12.9* Monos-6.3 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-15.44* AbsLymp-2.50 
AbsMono-1.23* AbsEos-0.03* AbsBaso-0.05
___ 03:26PM BLOOD ___ PTT-22.2* ___
___ 04:19PM BLOOD Plt ___
___ 03:26PM BLOOD Glucose-376* UreaN-24* Creat-2.5* Na-138 
K-6.9* Cl-98 HCO3-18* AnGap-22*
___ 03:26PM BLOOD ALT-39 AST-84* CK(CPK)-2674* AlkPhos-66 
TotBili-0.9
___ 03:26PM BLOOD Albumin-5.2 Calcium-9.7 Phos-5.3* Mg-2.7*
___ 03:26PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:09PM BLOOD ___ pO2-49* pCO2-62* pH-7.17* 
calTCO2-24 Base XS--6
___ 03:21PM BLOOD Na-137 K-6.1*

=======================
DISCHARGE LAB RESULTS
=======================
___ 06:52AM BLOOD WBC-6.7 RBC-3.91* Hgb-11.8* Hct-34.4* 
MCV-88 MCH-30.2 MCHC-34.3 RDW-11.8 RDWSD-37.7 Plt ___
___ 06:52AM BLOOD ___ PTT-25.9 ___
___ 06:52AM BLOOD Glucose-92 UreaN-13 Creat-1.4* Na-139 
K-4.0 Cl-98 HCO3-28 AnGap-13
___ 06:52AM BLOOD ALT-764* AST-866* ___ 
AlkPhos-34* TotBili-0.4
___ 06:52AM BLOOD Calcium-8.7 Phos-4.3 Mg-2.0

===================
IMAGING AND REPORTS
====================
___ Imaging CT HEAD W/O CONTRAST 
1. No acute intracranial process.

___ Imaging CHEST (PORTABLE AP) 
No acute cardiopulmonary abnormality.

___ Imaging LIVER OR GALLBLADDER US 
1.  Starry sky appearance of the hepatic parenchyma, which could
represent hepatitis. 
2.  Cholelithiasis without acute cholecystitis. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with no significant PMH who 
was found unresponsive while running the ___ Marathon. He was 
found to have hypoglycemia, hyperthermia, hyperkalemia, acute 
kidney injury and rhabdomyolysis. He was admitted to medicine 
for aggressive IV fluid repletion and serum CK downtrended to 
acceptable levels within 5 days of presentation. He was 
discharged with plan to follow up with PCP at which time labs 
will be checked. He will also follow up with nephrology within 
one month. 

ACUTE PROBLEMS:
===============
# Rhabdomyolysis
Patient developed rhabdomyolysis and acute kidney injury 
secondary to severe strain during the ___ Marathon. Though a 
trained runner, the patient indicated that on this occasion he 
was pushing for a faster mile time towards the end of the race 
and also wore less breathable fabric and was running on a hot, 
humid day. Consequently his admission CK  was elevated to ___ 
and peaked at 144,000 during this hospitalization. AST and ALT 
were also elevated in the thousands. He was admitted for 
aggressive IV fluid resuscitation. Nephrology was consulted and 
recommended IV fluid repletion until CK trended down between 
___. He was monitored closely for signs of compartment 
syndrome, but this did not occur. He was transitioned to PO 
fluids only on ___ and was able to maintain brisk urine output 
>250cc/hr with PO intake alone and was thus felt to be safe for 
discharge with CK of 11,000 on ___. He will continue aggressive 
oral volume repletion at home and repeat labs are scheduled with 
PCP ___ ___. 

# Acute kidney injury
# Hyperkalemia
# Metabolic acidosis 
# Toxic-metabolic encephalopathy 
On arrival, creatinine was 2.5, potassium was 6.9 and venous 
blood pH was 7.17 all consistent with acute kidney injury and 
metabolic acidosis. This was likely due to volume depletion and 
early rhabdomyolysis. He was given IV fluids and subsequently 
improved. He was trialed on PO fluids for about 24 hours and was 
able to demonstrate stable creatinine. As noted above, 
nephrology was consulted. The patient was advised to avoid 
marathons or strenuous training for the next month and to avoid 
NSAIDs while engaged in running activities. He should follow up 
with nephrology in ___ weeks. Creatinine at discharge was 1.4 
(fluctuating between 1.2-1.4). Renal function will be rechecked 
at PCP visit in two days.

# Hyperthermia
Patient's temperature was elevated to ___ in the emergency 
department in the setting of physical over-exertion. He was 
actively cooled, given IV fluids and subsequently returned to 
___. 

# Disseminated intravascular coagulation
During Mr. ___ hospital course he was found to have 
elevated D-dimer, decreased platelets and low fibrinogen 
concerning for developing DIC. This may have been triggered by 
muscle breakdown and microhemorrhage. In conjunction with our 
nephrology colleagues, we followed these labs closely  during 
Mr. ___ time in the hospital and found that this DIC 
process was resolving with continued volume resuscitation. 

# Transaminitis
AST/ALT elevated on admission, consistent with rhabdomyolysis. 
To evaluate for other hepatic pathology, RUQUS was performed in 
the emergecny room and revealed a "starry sky" appearance of the 
liver parenchyma. Given that the trend in his liver enzymes 
corresponded with rising CK, it was thought unlikely that he had 
a separate underlying liver pathology. Acute ischemic injury was 
considered. AST/ALT downtrended with IV fluid resuscitation. At 
discharge, they were ___. He should follow up with PCP for 
possible repeat liver ultrasound to ensure no evidence of 
ongoing pathology.

=========================
TRANSITIONAL ISSUES:
=========================
[ ] Continue aggressive oral hydration pending follow-up with 
PCP ___ ___
[ ] Followup with nephrology ___ weeks after discharge
[ ] PCP: please obtain CK, BMP, LFTs with next office visit to 
ensure stable renal function and ongoing improvement in CK and 
LFTs with ongoing oral hydration. 
[ ] Repeat liver US in ___ weeks to ensure resolution of starry 
sky appearance of liver parenchyma with resolution of rhabdo. 
[ ] Discharge creatinine: 1.4
[ ] Discharge CK: 11,000
[ ] Avoid marathons or strenuous training for next month
[ ] Please avoid NSAIDs pending repeat Cr. Should not use NSAIDs 
while running long distances or after long runs 

[x]>30 minutes spent on discharge planning and care coordination 
on day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 

 
Discharge Medications:
1.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Rhabdomyolysis
- Acute kidney injury

SECONDARY DIAGNOSIS
- Disseminated intravascular coagulation
- Hyperkalemia
- Hypoglycemia
- Hyperthermia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you at ___ 
___. 

WHY WERE YOU IN THE HOSPITAL? 
- You were admitted to the hospital because you passed out while 
running the ___ Marathon.  You were found to have multiple 
abnormalities in your blood that were consistent with a muscle 
breakdown process called rhabdomyolysis sustained while running 
the marathon.

WHAT HAPPENED WHEN YOU WERE IN THE HOSPITAL? 
- We monitored blood levels of various factors (CK, creatinine) 
and monitored your kidney function
- You received large amounts of fluids intravenously in order to 
minimize the potential damage that muscle breakdown products 
could have on your kidneys 

WHAT SHOULD YOU DO AFTER YOU LEAVE THE HOSPITAL? 
- Refrain from strenuous training for the next month
- Avoid NSAIDs when running
- Please follow up with your primary care doctor and 
nephrologist.

We wish you the best! 

Sincerely, 

Your ___ Team
 
Followup Instructions:
___